US07153878B2
3-(4-Amino-2-methyl-phenyl)-propionic acid methyl ester
A mixture of 3-(2-Methyl-4-nitro-phenyl)-acrylic acid methyl ester (1.47 g, 6.64 mmol) and 5% Pd/C (0.29 g) in MeOH (100 mL) is exposed to a hydrogen atmosphere (60 psi) for 12 h. The mixture is filtered through Celite and purified by flash chromatography to yield the title compound (0.99 g, 77%).

reactant | 3-(2-Methyl-4-nitro-phenyl)-acrylic acid methyl ester | 6.64 mmol, 1.47 g | COC(C=CC1=C(C=C(C=C1)[N+](=O)[O-])C)=O | C11H11NO4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 0.29 g | [Pd] | Pd
product | 3-(4-Amino-2-methyl-phenyl)-propionic acid methyl ester | 0.99 g, 77% | COC(CCC1=C(C=C(C=C1)N)C)=O | C11H15NO2
